US05488055
A mixture of 1-ethyl-N-[(4-carboxycyclohexyl)methyl]-1H-pyrazolo[3,4-b]quinolin-4-amine (5.0 g), THF (100 ml) and lithium aluminum hydride (3.0 g) was refluxed overnight. Additional lithium aluminum hydride (1.0 g) was added and the mixture was heated at reflux for another hour. The reaction mixture was cooled, water (4 ml), then 10% NaOH (4 ml) and finally water (12 ml) were added and the mixture was heated to reflux and then filtered. The collected solids were heated at reflux in THF for 10 minutes, then filtered again. The filtrates were combined, dried over MgSO4 and then evaporated. The residue was purified by column chromatography on silica gel eluting with ethyl acetate and then was crystallized from hexanes/ethyl acetate. The product was dissolved in methanol, treated with methanesulfonic acid and then the methanol was evaporated. The residue was crystallized from 2-propanol and then recrystallized from 2-propanol to afford 1-ethyl-N-[(4-hydroxy methylcyclohexyl)methyl]-1H-pyrazolo[3,4-b]quinolin-4-amine.CH3SO3H, as a white solid, m.p. 188°-190° C.

reactant | 1-ethyl-N-[(4-carboxycyclohexyl)methyl]-1H-pyrazolo[3,4-b]quinolin-4-amine | 5.0 g | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2CCC(CC2)C(=O)O | C20H24N4O2
reactant | THF | 100 ml | C1CCOC1 | C4H8O
reactant | lithium aluminum hydride | 3.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | lithium aluminum hydride | 1.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 4 ml | [OH-].[Na+]
solvent | water | 12 ml | O | H2O
solvent | water | 4 ml | O | H2O
product | 1-ethyl-N-[(4-hydroxy methylcyclohexyl)methyl]-1H-pyrazolo[3,4-b]quinolin-4-amine | C(C)N1N=CC=2C1=NC1=CC=CC=C1C2NCC2CCC(CC2)CO | C20H26N4O
